US08981084B2
The compound 3,5-dimethyl-piperazine-1-carboxylic acid tert-butyl ester (250 mg, 1.1 mmol) was dissolved in dry DMF (1 mL) taken in a shield tube. To the reaction mixture was added 6-bromonicotinonitrile (210 mg, 1.1 mmol) followed by 2,2,6,6-tetramethyl piperidine (0.16 g, 1.1 mmol) and the mixture was heated to 150° C. for 5 h. Reaction mixture was cooled to room temperature. The product was extracted with EtOAc and the organic layer was washed with H2O and brine. Solvent was removed under reduced pressure and the crude product was purified by column chromatography (silica gel 60-120 mesh, eluent 20-25% EtOAc in petroleum ether) to afford tert-butyl 4-(5-cyanopyridin-2-yl)-3,5-dimethylpiperazine-1-carboxylate (0.12 g, yield 33%). 1H NMR (400 MHz, CDCl3) δ 8.45 (d, J=2.3 Hz, 1H), 7.64 (dd, J=9.0 Hz, J=2.3 Hz, 1H), 6.53 (d, J=9.0 Hz, 1H), 4.48 (m, 2H), 4.13-4.00 (m, 2H), 3.16-3.06 (m, 2H), 1.51 (s, 9H), 1.27 (s, 3H), 1.25 (s, 3H).

reactant | 3,5-dimethyl-piperazine-1-carboxylic acid tert-butyl ester | 1.1 mmol, 250 mg | C(C)(C)(C)OC(=O)N1CC(NC(C1)C)C | C11H22N2O2
reactant | 6-bromonicotinonitrile | 1.1 mmol, 210 mg | BrC1=NC=C(C#N)C=C1 | C6H3BrN2
reactant | 2,2,6,6-tetramethyl piperidine | 1.1 mmol, 0.16 g | CC1(NC(CCC1)(C)C)C | C9H19N
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
product | tert-butyl 4-(5-cyanopyridin-2-yl)-3,5-dimethylpiperazine-1-carboxylate | 0.12 g, yield 33% | C(#N)C=1C=CC(=NC1)N1C(CN(CC1C)C(=O)OC(C)(C)C)C | C17H24N4O2
